US08134004B2
Step CA6A: 6-Bromo-quinolin-2-yl-1,1,1-trifluoropropan-2-ol
A DMF (5 ml) solution of the 6-bromoquinoline-ethanone (129 mg, 0.52 mmol), (trifluoromethyl)trimethylsilane (220 mg, 1.55 mmol) and tributylammonium fluoride (13.5 mg, 0.052 mmol) was stirred at 100° C. for 2 hours. Then the mixture was cooled to room temperature and added 1M-hydrochloride aqueous solution (2 ml). After 4 hours, the mixture was quenched with saturated sodium bicarbonate aqueous solution, and the product was extracted with ethyl acetate and dried over sodium sulfate. Then, filtration, evaporation, purification through silica gel column chromatography eluting with hexane/ethyl acetate (4:1) furnished the title compound (175 mg, quant.) as a white solid. 1H NMR (300 MHz, CDCl3) ppm 1.81 (3H, s), 6.51 (1H, s), 7.64 (1H, d, J=8.1 Hz), 7.66-7.89 (1H, m), 8.00-8.12 (2H, m), 8.21 (1H, d, J=8.8 Hz). MS (ESI): m/z 320, 322 (M+H)+.

reactant | 6-bromoquinoline-ethanone | 0.52 mmol, 129 mg | BrC=1C=C2C=CC(=NC2=CC1)CC=O | C11H8BrNO
reactant | (trifluoromethyl)trimethylsilane | 1.55 mmol, 220 mg | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tributylammonium fluoride | 0.052 mmol, 13.5 mg | [F-].C(CCC)[NH+](CCCC)CCCC
reactant | hydrochloride | 2 ml | Cl | ClH
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-Bromo-quinolin-2-yl-1,1,1-trifluoropropan-2-ol | 175 mg | BrC=1C=C2C=CC(=NC2=CC1)C(C(F)(F)F)(C)O | C12H9BrF3NO
